US08309718B2
3-(4-(2-(4-aminophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile
A mixture of 3-cyclopentyl-3-(4-(2-(4-nitrophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile (1.00 g, 0.00248 mol) in 20 mL of methanol was hydrogenated in the presence of catalytic amount of 10% Pd/C, under balloon pressure, overnight. The catalyst was filtered off and the filtrate was evaporated to dryness. The crude product was used directly in next step (900 mg, 97.2%). An analytically pure sample was obtained by RP-HPLC as a racemic mixture. LCMS (M+H) 374.4.

reactant | 3-cyclopentyl-3-(4-(2-(4-nitrophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile | 0.00248 mol, 1.00 g | C1(CCCC1)C(CC#N)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C21H21N7O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-(2-(4-aminophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile | NC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CCCC1 | C21H23N7
